US05025025
To a solution of 5.74 mL 93.33 mmol) of 0.58 M potassium hexamethyldisilazane in toluene is added dropwise 0.66 mL triethyl phosphonoacetate resulting in a yellow gelatinous mixture. This reaction mixture is stirred at room temperature for 25 minutes, a solution of 0.5 g (1.66 mmol) 1-(3-pyridyl)-4-oxo-8-(2-tetrahydropyranyloxy)-octane in 3 mL toluene is added and the mixture is refluxed for 15 hours. The reaction mixture is cooled to room temperature, quenched with 5 mL saturated aqueous ammonium chloride solution and extracted with ethyl acetate twice. The combined organic phase is washed with water and brine, dried, filtered and concentrated to give a brown oil which is purified by chromatography using 1:1 ethyl acetate, hexane to yield ethyl 3-[3-(3-pyridyl)propyl]-7-(2-tetra- hydropyranyloxy)-hept-2-enoate as a mixture of cis and trans isomers; NMR (CDCl3): delta 5.7 (s,1H), 4.2 (q,2H), 1.3 (t,3H).

reactant | potassium hexamethyldisilazane | 0.58 M | C[Si](N[Si](C)(C)C)(C)C.[K]
reactant | 1-(3-pyridyl)-4-oxo-8-(2-tetrahydropyranyloxy)-octane | 1.66 mmol, 0.5 g | N1=CC(=CC=C1)CCCC(CCCCOC1OCCCC1)=O | C18H27NO3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-[3-(3-pyridyl)propyl]-7-(2-tetra- hydropyranyloxy)-hept-2-enoate | N1=CC(=CC=C1)CCCC(=CC(=O)OCC)CCCCOC1OCCCC1 | C22H33NO4
